US06521666B1
To a solution of 2,6-dichloro-4-bromobenzoic acid methyl ester (0.55 g) in THF (10 mL) was added benzeneboronic acid (1.30 g), Pd(PPh3)4 (0.16 g) and 2M Na2CO3 (5 mL). The mixture was refluxed for 4 h under N2. After cooling, the mixture was diluted with EtOAc and washed with water and brine. The organic layer was dried (Na2SO4), filtered, and concentrated. The residue was purified by preparative TLC (silica gel; eluent: hexane to EtOAc/hexane 1/1) to yield crude 2,6-dichloro-4-phenylbenzoic acid methyl ester (0.57 g). ESMS: m/z 281 (MH+).

reactant | 2,6-dichloro-4-bromobenzoic acid methyl ester | 0.55 g | COC(C1=C(C=C(C=C1Cl)Br)Cl)=O | C8H5BrCl2O2
reactant | benzeneboronic acid | 1.30 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | Na2CO3 | 2M, 5 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | Pd(PPh3)4 | 0.16 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2,6-dichloro-4-phenylbenzoic acid methyl ester | 0.57 g | COC(C1=C(C=C(C=C1Cl)C1=CC=CC=C1)Cl)=O | C14H10Cl2O2
